US08049015B2
(5-Bromo-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester (5.02 mmol) was dissolved in CHCl3 (17 mL). Silver carbonate (1.58 g, 5.7 mmol) and iodomethane (0.82 mL, 13.14 mmol) were added, and the reaction was stirred at 55° C. for 2.5 hours. The mixture was filtered through Celite, and the filtrate was concentrated and purified by silica gel chromatography (0-60% EtOAc in hexanes) to give (5-bromo-6-hydroxy-pyridin-3-yl)-acetic acid ethyl ester.

reactant | (5-Bromo-6-methoxy-pyridin-3-yl)-acetic acid ethyl ester | 5.02 mmol | C(C)OC(CC=1C=NC(=C(C1)Br)OC)=O | C10H12BrNO3
reactant | iodomethane | 13.14 mmol, 0.82 mL | IC | CH3I
solvent | CHCl3 | 17 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Silver carbonate | 5.7 mmol, 1.58 g | C([O-])([O-])=O.[Ag+2]
product | (5-bromo-6-hydroxy-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)Br)O)=O | C9H10BrNO3
